US08222219B2
A solution of diisopropylamine (6.8 ml) in tetrahydrofuran (75 ml) was cooled to −78° C. under argon atmosphere, and thereto was added dropwise n-butyl lithium (1.59 M hexane solution, 30.5 ml). The reaction mixture was stirred at the same temperature for 30 minutes, and thereto was added dropwise a solution of 3-chloro-2-thiophenecarboxylic acid (3.92 g) in tetrahydrofuran (40 ml). The mixture was stirred at the same temperature for 30 minutes, and thereto was added dropwise 1,2-dibromo-1,1,2,2-tetrafluoroethane (6.0 ml). The mixture was stirred at the same temperature for one hour, and then, warmed to room temperature. The mixture was poured into a diluted aqueous hydrochloric acid solution, and the solution was extracted with ethyl acetate. The extract was washed with brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from a mixed solvent of diisopropyl ether and hexane to give 5-bromo-3-chloro-2-thiophenecarboxylic acid (3.79 g) as a yellow solid. ESI-Mass m/Z 239/241 (M−H). (2) The above 5-bromo-3-chloro-2-thiophenecarboxylic acid was treated in a manner similar to Reference Example 94 to give 5-bromo-3-chloro-2-(4-ethylphenylmethyl)thiophene as colorless oil.

reactant | diisopropylamine | 6.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.59 M, 30.5 ml | C(CCC)[Li]
reactant | 3-chloro-2-thiophenecarboxylic acid | 3.92 g | ClC1=C(SC=C1)C(=O)O | C5H3ClO2S
reactant | 1,2-dibromo-1,1,2,2-tetrafluoroethane | 6.0 ml | BrC(C(F)(F)Br)(F)F | C2Br2F4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-bromo-3-chloro-2-thiophenecarboxylic acid | 3.79 g | BrC1=CC(=C(S1)C(=O)O)Cl | C5H2BrClO2S
